Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
Labs:
=====
___ 01:52AM BLOOD WBC-6.0 RBC-4.24 Hgb-12.5 Hct-38.3 MCV-90 
MCH-29.5 MCHC-32.6 RDW-13.3 RDWSD-43.6 Plt ___
___ 01:52AM BLOOD Neuts-55.2 ___ Monos-10.2 Eos-1.5 
Baso-0.5 Im ___ AbsNeut-3.30 AbsLymp-1.93 AbsMono-0.61 
AbsEos-0.09 AbsBaso-0.03
___ 01:52AM BLOOD Glucose-139* UreaN-7 Creat-0.6 Na-141 
K-3.6 Cl-99 HCO3-29 AnGap-13
___ 01:52AM BLOOD ALT-20 AST-20 AlkPhos-65 TotBili-0.6
___ 01:52AM BLOOD Albumin-4.1 Calcium-9.6 Phos-3.5 Mg-2.1 
UricAcd-5.1

Imaging:
========
Atrius CT Neck/Torso:
CT NECK:
IMPRESSION:
Approximate 17 mm spiculated nodule right upper lobe most
consistent with primary lung neoplasm/carcinoma with mediastinal
heterogeneous lymph nodes measuring up to 16 mm and right
supraclavicular soft tissue mass as well as additional right
supraclavicular and lower neck lymph nodes most consistent with
metastatic adenopathy although some may be reactive. Multiple
bilateral subcentimeter pulmonary nodules of relative low 
density
and ___ opacity which are nonspecific and could be
inflammatory or metastatic. The right supraclavicular
heterogeneous presumed malignant mass measuring approximately 
5.1
cm x 3.5 cm does cause displacement of adjacent structures
including vascular structures, the thyroid gland and trachea 
with
compression of the right jugular vein although the right jugular
vein does appear to be patent. Chronic changes with scarring and
left granuloma. Heterogeneous uterus with multiple masses
including calcified masses most consistent with myomas. Renal 
and
hepatic hypodensities most consistent with cysts. Hepatic
calcified granulomas.
 
Brief Hospital Course:
___ with a history of HL, T2DM, paroxysmal SVT and palpitations, 
who presented due to a right-sided neck mass.

# Neck mass: developed swelling in the right base of 
neck/supraclavicular area
starting five days prior to admission. CT at urgent care 
revealed a heterogeneous right supraclavicular mass along with a 
17mm spiculated lung nodule concerning for primary lung cancer. 
She has no smoking history.
She had no stridor, dysphagia, or shortness of breath. Uric acid 
level was normal.
She was referred for admission in order to undergo biopsy given 
concern for rapid growth of mass, and concern for compression of 
nearby structures.
Case was discussed with ___ but biopsy not able to be performed 
over the long weekend. Per ___, there is a significant cystic 
component of the supraclavicular mass which they felt was most 
likely responsible for the rapid enlargement. The solid 
component appeared small. They did not feel that there was 
evidence of airway involvement or compression (Atrius radiology 
report noted some concern for tracheal displacement). Patient 
preferred to go home and return for an outpatient biopsy. She 
was instructed to return to the ED immediately if she developed 
any shortness of breath, dysphagia, or any other concerning 
symptoms.

> 30 minutes spent on discharge coordination and planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY  
2.  Simvastatin 20 mg PO QPM  
3.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Neck mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in with a mass on your neck. You will need to have this 
mass biopsied but unfortunately this was not able to be 
performed over the weekend.
We are working on setting up an outpatient biopsy with the 
radiologists. Someone should call you with an appointment. If 
you do not hear from anyone by ___ of next week, please 
call ___.

If you develop any shortness of breath, difficulty swallowing, 
or fevers, please return to the emergency room immediately.

It was pleasure taking care of you.
 
Followup Instructions:
___